US06365736B1
2-Methyl-3-amino-6-[2-(3-chlorobenzylamino)-ethyl]-2H-1,4-benzoxazine dihydrochloride
203.9 mg (0.474 mmol) of 2-methyl-3-amino-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-2H-1,4-benzoxazine is mixed with 7 ml of an HCl in dioxane solution (4M) and stirred for three hours at room temperature. The precipitated product is suctioned off, and washed with toluene and with dichloromethane. After drying on the oil pump, 163.3 mg (85.5%) of the desired product is obtained as dihydrochloride.

reactant | 2-methyl-3-amino-6-[2-(3-chlorobenzyl-tert-butyloxycarbonylamino)-ethyl]-2H-1,4-benzoxazine | 0.474 mmol, 203.9 mg | CC1OC2=C(N=C1N)C=C(C=C2)CCN(C(=O)OC(C)(C)C)CC2=CC(=CC=C2)Cl | C23H28ClN3O3
reactant | HCl | 7 ml | Cl | ClH
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | 2-Methyl-3-amino-6-[2-(3-chlorobenzylamino)-ethyl]-2H-1,4-benzoxazine dihydrochloride | 163.3 mg, 85.5% | Cl.Cl.CC1OC2=C(N=C1N)C=C(C=C2)CCNCC2=CC(=CC=C2)Cl | InChI=1S/C18H20ClN3O.2ClH/c1-12-18(20)22-16-10-13(5-6-17(16)23-12)7-8-21-11-14-3-2-4-15(19)9-14;;/h2-6,9-10,12,21H,7-8,11H2,1H3,(H2,20,22);2*1H
